US06506901B2
Step C: 1-(4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenyl)-1-ethanone
To a solution of imidazole (7.29 g, 107.0 mmol) and 1-(3-fluoro-4-hydroxyphenyl)-1-ethanone (15.0 g, 97.3 mmol) in anhydrous dichloromethane (500 mL) was added drop-wise a solution of t-butyldiphenylchlorosilane (28.09 g, 102.0 mmol) in anhydrous dichloromethane (100 mL). The solution was stirred overnight at room temperature. The mixture was poured into water (500 mL) and the organic layer separated and washed with saturated sodium hydrogen carbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent evaporated to dryness in vacuo to give the title compound which was used without further purification (37.9 g, 96.55 mmol). MS (APCI+, m/z): 393 [M+H]+.

reactant | imidazole | 107.0 mmol, 7.29 g | N1C=NC=C1 | C3H4N2
reactant | 1-(3-fluoro-4-hydroxyphenyl)-1-ethanone | 97.3 mmol, 15.0 g | FC=1C=C(C=CC1O)C(C)=O | C8H7FO2
reactant | t-butyldiphenylchlorosilane | 102.0 mmol, 28.09 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenyl)-1-ethanone | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C=C(C=C1)C(C)=O)F | C24H25FO2Si
